US04216148
7-Chloro-9-(4-methyl-1-piperazinyl)-4H-thieno[3,4-b][1,4]benzodiazepine
To a solution of 7 ml. of anisole, 3.8 ml. of titanium tetrachloride and 1.5 g. of methylpiperazine in 67 ml. of toluene is added a mixture of 6.7 g. of 7-chloro-4H-thieno-[3,4-b][1,4]benzodiazepin-9(10H)-one and 7.6 g. of methylpiperazine in 7 ml. of toluene. The mixture is refluxed with stirring overnight, cooled and 10 ml. of isopropyl alcohol, 5 g. of diatomaceous earth and 10 ml. of ammonium hydroxide are added. The mixture is filtered and washed with toluene. The toluene is washed with water and then extracted with three 150 ml. portions of 3 N hydrochloric acid. The acid extracts are made alkaline with ammonium hydroxide and extracted with dichloromethane. This extract is dried over magnesium sulfate, filtered and the solvent is evaporated. The residue is crystallized from dichloromethane-hexane giving the desired product, m.p. 191°-194° C.

reactant | anisole | C1(=CC=CC=C1)OC | C7H8O
reactant | methylpiperazine | CN1CCNCC1 | C5H12N2
reactant | 7-chloro-4H-thieno-[3,4-b][1,4]benzodiazepin-9(10H)-one | ClC=1C=CC2=C(C(NC=3C(N2)=CSC3)=O)C1 | C11H7ClN2OS
reactant | ammonium hydroxide | [OH-].[NH4+]
catalyst | titanium tetrachloride | [Ti](Cl)(Cl)(Cl)Cl
solvent | isopropyl alcohol | C(C)(C)O | C3H8O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 7-Chloro-9-(4-methyl-1-piperazinyl)-4H-thieno[3,4-b][1,4]benzodiazepine | ClC=1C=CC2=C(C(=NC=3C(N2)=CSC3)N3CCN(CC3)C)C1 | C16H17ClN4S
